US05824691
28% Ammonia aqueous solution (0.4 ml) was added to a mixture of methyl 3-(2-trichloroacetylpyrrol-1-yl)benzoate (1.0 g) and N,N-dimethylformamide (2 ml), and the mixture was stirred for 1.5 hours at ambient temperature. The mixture was poured into a mixture of ethyl acetate and water. The separated organic layer was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was triturated with diisopropyl ether to give methyl 3-(2-carbamoylpyrrol-1-yl)benzoate (0.61 g).

reactant | Ammonia aqueous | 0.4 ml | [NH4+].[OH-]
reactant | methyl 3-(2-trichloroacetylpyrrol-1-yl)benzoate | 1.0 g | ClC(C(=O)C=1N(C=CC1)C=1C=C(C(=O)OC)C=CC1)(Cl)Cl | C14H10Cl3NO3
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | methyl 3-(2-carbamoylpyrrol-1-yl)benzoate | 0.61 g | C(N)(=O)C=1N(C=CC1)C=1C=C(C(=O)OC)C=CC1 | C13H12N2O3
